US07692005B2
4-Chloro-1-ethyl-1H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 4-Chloro-1-ethyl-1H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 85 mg, 0.1946 mmol) and THF (2.0 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (37.3 mg, 0.195 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The solid residue was redissolved in EtOAc (˜5 mL) and Hexane (˜50 mL) was added to the solution. The precipitate that formed was collected by filtration and washed with acetone (10 mL) to afford the title compound in 43% yield (0.051 g, 0.084 mmol).

reactant | 4-Chloro-1-ethyl-1H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.1946 mmol, 85 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C1=NN(C=C1Cl)CC)=O | C22H17ClN4O4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.195 mmol, 37.3 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 4-Chloro-1-ethyl-1H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 43% yield | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C1=NN(C=C1Cl)CC)=O | C33H32ClN7O3
